US06294555B1
Preparation of 4-amino-1-(1-benzyloxycarbonyl-4-piperidinylmethyl)piperidine
To a solution of 1-(1-benzyloxycarbonyl-4-piperidinylmethyl)-4-(t-butoxycarbonylamino)piperidine (7.77 g) in ethanol (30 ml) is added a 30% solution of hydrochloric acid in ethanol (15 ml) under ice-cooling, and the mixture is stirred at room temperature for 5 hours. The solvent is evaporated under reduced pressure, and the residue is dissolved in water. The solution is basified with potassium carbonate and extracted with chloroform. The extract is washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure to give the desired compound (6.04 g) as an oily product.

reactant | 1-(1-benzyloxycarbonyl-4-piperidinylmethyl)-4-(t-butoxycarbonylamino)piperidine | 7.77 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN1CCC(CC1)NC(=O)OC(C)(C)C | C24H37N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-amino-1-(1-benzyloxycarbonyl-4-piperidinylmethyl)piperidine | 6.04 g | NC1CCN(CC1)CC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H29N3O2
